US08835465B2
5,6-Dichloro-N-(5-isopropoxy-1H-pyrazol-3-yl)-3-nitropyridin-2-amine
To a mixture of 2,3,6-trichloro-5-nitropyridine (2.61 g, 11.4 mmol) and DIEA (1.90 ml, 11.4 mmol) in THF (50 ml) was added the 5-isopropoxy-1H-pyrazol-3-amine (1.20 g, 8.50 mmol) at 0° C. After addition, the reaction mixture was stirred at 25° C. for 5 days. The solvent was removed under reduced pressure and the resulting residue was purified by column chromatography (hexane-EtOAc=2.5:1) to give the title compound as a yellow solid (0.77 g, 27%). 1H NMR (400 MHz) δ 12.26 & 11.64 (s, 1H), 10.42 & 10.04 (s, 1H), 8.81 & 8.77 (s, 1H), 6.02 & 5.94 (s, 1H), 4.70 & 4.48 (m, 1H), 1.32 (d, J=6.0 Hz, 3H), 1.27 (d, J=6.0 Hz, 1H). MS: Calcd.: 331. Found: [M+H]+ 332.

reactant | 2,3,6-trichloro-5-nitropyridine | 11.4 mmol, 2.61 g | ClC1=NC(=C(C=C1Cl)[N+](=O)[O-])Cl | C5HCl3N2O2
reactant | DIEA | 11.4 mmol, 1.90 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-isopropoxy-1H-pyrazol-3-amine | 8.50 mmol, 1.20 g | C(C)(C)OC1=CC(=NN1)N | C6H11N3O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5,6-Dichloro-N-(5-isopropoxy-1H-pyrazol-3-yl)-3-nitropyridin-2-amine | 0.77 g, 27% | ClC=1C=C(C(=NC1Cl)NC1=NNC(=C1)OC(C)C)[N+](=O)[O-] | C11H11Cl2N5O3
